US04242518
12.7 parts of 3-hydroxy-2-cyanodihydrothiophene are dissolved in 100 parts by volume of chloroform and 200 parts by volume of a 4 percent strength by weight solution of diazomethane in ether are added at 0° C. The solution is stirred for 12 hours at 0° C. and is concentrated under reduced pressure. The residue is distilled. 10.1 parts (72% of theory) of 3-methoxy-2-cyanodihydrothiophene of boiling point 82°-83° C./0.35 mbar are obtained.

reactant | 3-hydroxy-2-cyanodihydrothiophene | OC1C(SC=C1)C#N | C5H5NOS
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | 3-methoxy-2-cyanodihydrothiophene | 72% | COC1C(SC=C1)C#N | C6H7NOS
